US09107916B2
A. methyl 4-cyclopropyl-3-fluorobenzoate
The title compound was prepared from methyl 4-bromo-3-fluorobenzoate and cyclopropylboronic acid according to the procedure for the preparation of EXAMPLE 152, part A. 1H NMR (400 MHz, CDCl3): δ 0.77-0.81 (2H, m), 1.04-1.09 (2H, m), 2.12-2.16 (1H, m), 3.89 (3H, s), 6.88-6.92 (1H, m), 7.63-7.66 (1H, m), 7.69-7.72 (1H, m).

reactant | methyl 4-bromo-3-fluorobenzoate | BrC1=C(C=C(C(=O)OC)C=C1)F | C8H6BrFO2
reactant | cyclopropylboronic acid | C1(CC1)B(O)O | C3H7BO2
product | methyl 4-cyclopropyl-3-fluorobenzoate | C1(CC1)C1=C(C=C(C(=O)OC)C=C1)F | C11H11FO2
